US05049674
Preparation of 5-fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl)thio]-1H-benzimidazole
To 5-fluoro-2-mercapto-1H-benzimidazole (0.88 g, 0.0051 mol) in methanol (25 ml) NaOH (0.2 g, 0.0051 mol) dissolved in H2O (1 ml) and 4-cyclopropylmethoxy-2-chloromethylpyridine hydrochloride (0.91 g, 0.0046 mol) dissolved in methanol (10 ml) were added in the given order. The mixture was heated to boiling and NaOH (0.2 g, 0.005 mol) dissolved in H2O (1 ml) was added and the mixture was refluxed for 1 hour. After evaporation of methanol, CH2Cl2 (75 ml) and H2O (50 ml) were added and pH adjusted to 10. The mixture was vigorously stirred, the phases were separated, the organic phase was dried over Na2SO4 and evaporated giving the desired product (1.25 g, 72%). NMR data for the product is given below.

reactant | 5-fluoro-2-mercapto-1H-benzimidazole | 0.0051 mol, 0.88 g | FC1=CC2=C(NC(=N2)S)C=C1 | C7H5FN2S
reactant | 4-cyclopropylmethoxy-2-chloromethylpyridine hydrochloride | 0.0046 mol, 0.91 g | Cl.C1(CC1)COC1=CC(=NC=C1)CCl
reactant | NaOH | 0.005 mol, 0.2 g | [OH-].[Na+]
solvent | H2O | 1 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | H2O | 1 ml | O | H2O
solvent | methanol | 0.0051 mol, 25 ml, 0.2 g | CO | CH4O
product | 5-fluoro-2-[[(4-cyclopropylmethoxy-2-pyridinyl)methyl)thio]-1H-benzimidazole | 1.25 g, 72% | FC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2)OCC2CC2)C=C1 | C17H16FN3OS
